US07105544B2
N-{3-[1-(3-{[DIFLUORO(PHENYL)ACETYL]AMINO}PROPYL)-4-PIPERIDINYL]-4-FLUOROPHENYL}-2-METHYLPROPANAMIDE
Example 136 was prepared from 2,2-difluoro-2-phenylacetic acid and N-{3-[1-(3-aminopropyl)-4-piperidinyl]-4-fluorophenyl}-2-methylpropanamide according to the procedures described in Scheme 9: 1H NMR (400 MHz, CDCl3) δ 9.11 (s, 1H), 7.61–7.56 (m, 2H), 7.41–7.34 (m, 4H), 7.21–7.17 (m, 1H), 7.14 (s, 1H), 6.88 (t, 1H, J=9.5 Hz), 3.39 (q, 2H, J=5.7 Hz), 3.08–3.01 (m, 2H), 2.84–2.74 (m, 1H), 2.50 (t, 2H, J=5.1 Hz), 2.38 (septet, 1H, J=7.2 Hz), 2.08–1.99 (m, 2H), 1.81–1.73 (m, 4H), 1.72–1.64 (m, 2H), 1.17 (d, 6H, J=7.2 Hz); ESMS m/e: 476.2 (M+H)+.

reactant | 2,2-difluoro-2-phenylacetic acid | FC(C(=O)O)(C1=CC=CC=C1)F | C8H6F2O2
reactant | N-{3-[1-(3-aminopropyl)-4-piperidinyl]-4-fluorophenyl}-2-methylpropanamide | NCCCN1CCC(CC1)C=1C=C(C=CC1F)NC(C(C)C)=O | C18H28FN3O
product | N-{3-[1-(3-{[DIFLUORO(PHENYL)ACETYL]AMINO}PROPYL)-4-PIPERIDINYL]-4-FLUOROPHENYL}-2-METHYLPROPANAMIDE | FC(C(=O)NCCCN1CCC(CC1)C=1C=C(C=CC1F)NC(C(C)C)=O)(C1=CC=CC=C1)F | C26H32F3N3O2
